US04707295
A mixture of 33 g of 2-n-pentyl-5-(4-n-propylbicyclo[2.2.2]octyl)-cyclohexanone [obtainable by the method of P. Place et al., Tetrahedron 34, 1931 (1978) by reacting 3-acetylbutyrolactone with n-pentyl halide/NaH, subsequently reacting the product with hydrogen bromide to give 3-acetyl-1-bromo-n-octane, converting the latter into the corresponding ethylene ketal, reacting the corresponding Grignard compound with 4-cyano-1-n-propylbicyclo[2.2.2]octane and subsequently subjecting the product to an aldol condensation and catalytically hydrogenating the cyclohex-2-enone to give the target product], 20 ml of 80% hydrazine hydrate and 20 g of KOH in 240 ml of diethylene glycol is boiled under reflux for 2 hours. The reflux condenser is then replaced by a distillation column, the temperature is increased slowly to 200° C. and the mixture is kept at this temperature for 6 hours. After cooling, it is diluted with 300 ml of water, acidified and extracted with toluene. Customary working up of the organic phase gives 1-n-propyl-4-(trans-4-n-pentylcyclohexyl)-bicyclo[2.2.2]octane.

reactant | 2-n-pentyl-5-(4-n-propylbicyclo[2.2.2]octyl)-cyclohexanone | 33 g | C(CCCC)C1C(CC(CC1)C12CCC(CC1)(CC2)CCC)=O | C22H38O
reactant | 3-acetylbutyrolactone | C(C)(=O)C1CC(=O)OC1 | C6H8O3
reactant | hydrogen bromide | Br | BrH
product | 3-acetyl-1-bromo-n-octane | C(C)(=O)C(CCBr)CCCCC | C10H19BrO
